US05175301
In 30 ml of toluene was dissolved 2.5 g of 1,1-dimethyl-2-(3-pyridylmethyl)hydrazine followed by addition of 1.2 g of methyl isothiocyanate and the mixture was refluxed for 1 hour. The reaction mixture was concentrated and the resulting crystals are collected by filtration, washed with ethyl ether and dried. The procedure gave 2.6 g of 1,1-dimethyl-4-methyl-2-(3-pyridylmethyl)thiosemicarbazide as white prisms.

reactant | 1,1-dimethyl-2-(3-pyridylmethyl)hydrazine | 2.5 g | CN(NCC=1C=NC=CC1)C | C8H13N3
reactant | methyl isothiocyanate | 1.2 g | CN=C=S | C2H3NS
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-dimethyl-4-methyl-2-(3-pyridylmethyl)thiosemicarbazide | 2.6 g | CN(N(C(=S)NC)CC=1C=NC=CC1)C | C10H16N4S
